US06498251B1
Synthesis Example 43c 2-Cyanomethyl-3-fluoro-benzoic Acid Methyl Ester
2-Bromomethyl-3-fluoro-benzoic acid methyl ester (5.1 g, 21 mmol) was dissolved in methanol (50 ml), and sodium cyanide aqueous solution (4.2 ml, 5 ml, 21 mmol) was added dropwise thereto. After completion of the dropwise addition, the mixture was stirred at 50° C. for 2 hours. The residue obtained by evaporating the solvent from the reaction solution under a reduced pressure was mixed with ethyl acetate, washed with water and saturated brine and then dried with anhydrous it magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 3.3 g (17 mmol, 82% in yield) of the title compound.

reactant | 2-Bromomethyl-3-fluoro-benzoic acid methyl ester | 21 mmol, 5.1 g | COC(C1=C(C(=CC=C1)F)CBr)=O | C9H8BrFO2
reactant | sodium cyanide | 21 mmol, 4.2 ml | [C-]#N.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-Cyanomethyl-3-fluoro-benzoic Acid Methyl Ester | COC(C1=C(C(=CC=C1)F)CC#N)=O | C10H8FNO2
